US07547691B2
(R)-2-{5-Chloro-2-[2-(2-methylpiperazin-1-yl)-ethylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide
Using the method of (R)-2-{5-chloro-2-[3-(2-methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid methylamide, the title compound is synthesized from 2-(2,5-dichloropyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid cyclopropylamide and (R)-4-(2-aminoethyl)-3-methylpiperazine-1-carboxylic acid tert-butyl ester and isolated as a yellow solid. ES+(m/z) 471 (35Cl) and 473 (37Cl) [M+H].

reactant | (R)-2-{5-chloro-2-[3-(2-methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid methylamide | CNC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Cl)NCCCN2[C@@H](CNCC2)C | C22H27ClN6OS
reactant | 2-(2,5-dichloropyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid cyclopropylamide | C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Cl)Cl | C16H11Cl2N3OS
reactant | (R)-4-(2-aminoethyl)-3-methylpiperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H](N(CC1)CCN)C | C12H25N3O2
product | (R)-2-{5-Chloro-2-[2-(2-methylpiperazin-1-yl)-ethylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide | C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Cl)NCCN2[C@@H](CNCC2)C | C23H27ClN6OS
